US06054448
i) Diethyl 3,3-diphenylpropylphosphonate
Diethyl 3,3-diphenylpropylbromide (43.0 g, 0.156 mol) and triethyl phosphite (51.9 g, 0.31 mol) was heated to 150° C. for 20 hours in a flask equipped with nitrogen flow through and an air condenser. Extra triethyl phosphite (20 ml) was added and heating continued to 160° C. for 3 hours. The yellow reaction solution was distilled, collecting several fractions to give the title product as a pale yellow liquid (b.p. 162-176° C. at 0.08 mbar) that crystallised on standing.

reactant | Diethyl 3,3-diphenylpropylbromide | 0.156 mol, 43.0 g | C(C)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)(CC)Br | C19H23Br
reactant | triethyl phosphite | 20 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | triethyl phosphite | 0.31 mol, 51.9 g | P(OCC)(OCC)OCC | C6H15O3P
product | Diethyl 3,3-diphenylpropylphosphonate | C1(=CC=CC=C1)C(CCP(OCC)(OCC)=O)C1=CC=CC=C1 | C19H25O3P
